US03971772
f. 21-Chloro-9-fluoro-11β,17-dihydroxy-16α-[(3-oxo-3-phenylprop-2-yl)oxy]pregna-1,4-diene-3,20-dione
A solution of 2-phenyl-2-(1-diazoethyl)dioxolane in 3:2 ether-pentane is diluted with methanol and cooled to 0°C. 21-Chloro-9-fluoro-11β,16α,17-trihydroxypregna-1,4-diene-3,20-dione, 16,17-cycloborate is added in portions until nitrogen evolution ceases. The solvent is removed in vacuo.

reactant | 2-phenyl-2-(1-diazoethyl)dioxolane | C1(=CC=CC=C1)C1(OCCO1)C(C)=[N+]=[N-] | C11H12N2O2
reactant | 21-Chloro-9-fluoro-11β,16α,17-trihydroxypregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)O)O)=O | C21H26ClFO5
solvent | methanol | CO | CH4O
product | 21-Chloro-9-fluoro-11β,17-dihydroxy-16α-[(3-oxo-3-phenylprop-2-yl)oxy]pregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)OC(C)C(C1=CC=CC=C1)=O)O)=O | C30H34ClFO6
